US07157487B2
(Step 6) Synthesis of methyl 4-((2S,4S)-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-phenoxy-2-pyrrolidinylmethoxy)benzoate
In DMF (10 ml), a mixture of 2-(2-methylphenylamino)-6-benzoxazolylacetic acid (351 mg, 1.07 mmol), methyl 4-((2S,4S)-4-phenoxy-2-pyrrolidinylmethoxy)benzoate (303 mg, 1.07 mmol), EDC•HCl (308 mg, 1.61 mmol), HOBt (218 mg, 1.61 mmol) and triethylamine (0.74 ml, 5.35 mmol) was stirred at room temperature for 21 hours. The reaction mixture was poured in ice water (30 ml), followed by extraction with ethyl acetate. The extract was washed with ice water and saturated brine, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (silica gel: 40 g), whereby from chloroform/acetone (10/1) eluate fractions, the title compound (640 mg, 100%) was obtained as a yellow oil.

reactant | 2-(2-methylphenylamino)-6-benzoxazolylacetic acid | 1.07 mmol, 351 mg | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)O | C16H14N2O3
reactant | methyl 4-((2S,4S)-4-phenoxy-2-pyrrolidinylmethoxy)benzoate | 1.07 mmol, 303 mg | O(C1=CC=CC=C1)[C@H]1C[C@H](NC1)COC1=CC=C(C(=O)OC)C=C1 | C19H21NO4
reactant | EDC•HCl | 1.61 mmol, 308 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.61 mmol, 218 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 5.35 mmol, 0.74 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 4-((2S,4S)-1-(2-(2-methylphenylamino)-6-benzoxazolylacetyl)-4-phenoxy-2-pyrrolidinylmethoxy)benzoate | 640 mg, 100% | CC1=C(C=CC=C1)NC=1OC2=C(N1)C=CC(=C2)CC(=O)N2[C@@H](C[C@@H](C2)OC2=CC=CC=C2)COC2=CC=C(C(=O)OC)C=C2 | C35H33N3O6
